US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 13 from 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (2.0 g, 0.008 moles), 0.008 moles), triethylamine (2.3 ml, 0.017 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride (1.8 g, 0.008 moles). Recrystallization from ethanol gave the product (2.0 g) as the hemihydrochloride, mp 255° C. (dec).

reactant | 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.008 moles, 2.0 g | ClC=1C(=CC2=C(C1)C1=C(CNCC1)C(O2)=O)C | C13H12ClNO2
reactant | triethylamine | 0.017 moles, 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride | 0.008 moles, 1.8 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.0 g | C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)Cl)C | C23H29ClN2O2
